US08975428B2
(R)-methyl 1-(naphthalen-2-yl)-2,2-diphenylcyclopropanecarboxylate
To a flame-dried round bottom flask kept under a dry atmosphere of argon, was added Rh2(R-DOSP)4 (0.01 equiv., 474 mg), 1,1-diphenylethlyene (2.32 equiv., 10.5 g, 58 mmol), and dry degassed pentane (100 mL). A solution of freshly prepared methyl 2-diazo-2-(naphthalen-2-yl)acetate (1.0 equiv., 5.65 g, 25 mmol) in dry, degassed pentane (250 mL) was added to the former solution drop-wise over 3 hours at −40° C. The mixture was allowed to stir overnight to room temperature, and then concentrated in vacuo. The crude material was purified using flash column chromatography eluting with a 40:1 mixture of hexanes/ethyl acetate to provide the desired product as a white solid (7.0 g, 74% yield, >99% ee). mp: 138-139° C.; [α]20D −347.9° (c=1.0, CHCl3); 1H NMR (400 MHz, CDCl3) δ 7.78 (s, 1H), 7.74-7.71 (m, 1H), 7.50-7.36 (m, 4H), 7.24-7.22 (m, 1H), 7.06-7.04 (m, 2H), 6.96-6.86 (m, 3H), 3.38 (s, 3H), 2.79 (d, J=5.6 Hz, 1H), 2.57 (d, J=5.6 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 171.4, 141.9, 139.4, 133.6, 132.8, 132.3, 130.4, 130.2, 129.9, 128.7, 128.3, 127.7, 127.6, 127.5, 126.9, 126.7, 126.1, 125.8, 125.6, 141.9, 139.4, 133.6, 132.8, 132.2, 130.4, 130.2, 129.9, 128.7, 128.3, 127.7, 127.6, 127.5, 126.9, 126.7, 126.1, 125.8, 125.6, 52.2, 44.5, 43.2, 23.1; IR (neat): 3057, 3024, 2947, 1724, 1433, 1215; HRMS (APCI) calcd for C27H23O2 (M+H)+ 379.16926. found 379.16952; HPLC (ODH, 0.5% isopropanol in hexane, 1.0 mL/min, 1 mg/mL, 30 min, UV 254 nm) retention times of 8.6 min (major) and 9.6 min (minor), >99% ee.

reactant | 1,1-diphenylethlyene | 58 mmol, 10.5 g, 2.32 equiv. | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | methyl 2-diazo-2-(naphthalen-2-yl)acetate | 25 mmol, 5.65 g, 1.0 equiv. | [N+](=[N-])=C(C(=O)OC)C1=CC2=CC=CC=C2C=C1 | C13H10N2O2
catalyst | Rh2(R-DOSP)4 | 474 mg, 0.01 equiv. | CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)N2CCC[C@@H]2C(=O)O.CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)N2CCC[C@@H]2C(=O)O.CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)N2CCC[C@@H]2C(=O)O.CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)N2CCC[C@@H]2C(=O)O.[Rh].[Rh]
product | (R)-methyl 1-(naphthalen-2-yl)-2,2-diphenylcyclopropanecarboxylate | 7.0 g, 74% yield | C1=C(C=CC2=CC=CC=C12)[C@]1(C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C27H22O2
